US04000153
In the manner given in Example 5, 2'-chloro-2-[3-(hydroxymethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone is treated with phosphorus tribromide in chloroform to give 2'-chloro-2-[3-(bromomethyl)-5-methyl-4H-1,2,4-triazol-4yl]benzophenone.

reactant | 2'-chloro-2-[3-(hydroxymethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC=C1)N1C(=NN=C1C)CO)=O | C17H14ClN3O2
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2'-chloro-2-[3-(bromomethyl)-5-methyl-4H-1,2,4-triazol-4yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC=C1)N1C(=NN=C1C)CBr)=O | C17H13BrClN3O
